*****************************************************************
* NXP PSMN6R0-25YLB
*
* Polarity N-Channel
* Ratings 25V/6.100000E-003OHMS/73A
*
* Date Created Thu Sep 01 00:52:50 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN6R0-25YLB DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 2500000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00386281474370133 TC=0.00496631348953207,3.69058370094596E-06
RBD 9 4 0.00173179346286737 TC=0.00496631348953207,3.69058370094596E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 9.7e-10
RG 1 2 1.59271376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	974.8
+ -10	973
+ -5	967.6
+ -4	963.7
+ -3	951
+ -2	769.5
+ -1	670.2
+ -0.5	559.7
+ -0.2	489.4
+ -0.1	465.7
+ 0	442.24
+ 0.1	410.01
+ 0.2	379.9
+ 0.5	305
+ 1	230.6
+ 2	168.9
+ 3	144.3
+ 4	130.6
+ 5	121.8
+ 6	115.6
+ 8	108
+ 10	102.9
+ 12	98.4
+ 15	93.3
+ 20	86.6
+ 25	79.9
+ 30	73.2



.MODEL MINT NMOS(Vto=1.79748818147332 Kp=1.550702e+002 Nfs=410000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=30 Ibv=2.500000E-004 Rs=1E-6 Is=7.85461200918711e-13
+ N=1 M=0.57 VJ=0.7 Fc=0.5 Cjo=1.22982e-09 Tt=2.7292e-08)

.ENDS

